US07217409B2
(a) 1-Phenyl-2,5,8, 11,14,17-hexaoxanonadecan-19-ol
To a stirred suspension of sodium hydride (50% dispersion in mineral oil, 2.55 g) in tetrahydrofuran (100 mL) was added hexaethylene glycol (25 g). The reaction mixture was stirred at 5–15° C. for 10 minutes, then benzyl bromide (16.66 g) was added. The suspension was allowed to stand at 20° C. for 72 hours then the reaction mixture was diluted with water (250 mL) and extracted with cyclohexane (250+125 mL). Aqueous sodium chloride solution (15% w/w, 300 mL) was added to the aqueous phase and the resulting solution was extracted with ethyl acetate (3×250 mL). The combined ethyl acetate extracts were concentrated in vacuo to give the title compound as an orange oil (18.68 g). LC retention time 2.50 mins. Mass spectrum m/z 390 [MNH4+]

reactant | sodium hydride | 2.55 g | [H-].[Na+]
reactant | hexaethylene glycol | 25 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | benzyl bromide | 16.66 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 250 mL | O | H2O
product | 1-Phenyl-2,5,8, 11,14,17-hexaoxanonadecan-19-ol | 18.68 g | C1(=CC=CC=C1)COCCOCCOCCOCCOCCOCCO | C19H32O7
